Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left arm paresthesias
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ is a ___ F with a h/o HTN, HLD, left 
carotid stenosis (65-70% per patient, she reports right side is 
normal) who presents to the ___ ED after transfer from 
___ where she presented with complaint of paresthesias in 
the left arm and hand starting upon waking at 2am this morning. 
Patient reports waking with a pins and needles sensation in the 
entire left arm from shoulder to hand circumferentially. She 
remained awake and worried for the next 3 hours and there was no 
change in her symptoms. She had no difficulty using or moving 
the left arm or hand. She had no abnormal sensations in the face 
or leg. She called her PCP who suggested she present to an 
emergency room if she was concerned, but the PCP's concern for 
worrisome etiology was low. She fell back to sleep around 5am 
and awoke 2 hours later. Upon waking, the symptoms had largely 
resolved, but some tingling in the palm of the left hand 
remained. She was noted to have a new systolic murmur in the 
emergency room.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech. Denies focal weakness. No 
bowel or bladder incontinence or retention. Denies difficulty 
with gait.

On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HLD
carotid stenosis
HTN

 
Social History:
___
Family History:
notable for CAD

 
Physical Exam:
EXAM:
Vitals:
97.4 72 138/58 16 97% RA
GEN: Awake, cooperative, NAD.
HEENT: NC/AT, anicteric, MMM, no lesions noted in oropharynx
NECK: Supple
RESP: CTAB
CV: RRR
ABD: soft, NT/ND
EXT: No edema, no cyanosis
SKIN: no rashes or lesions noted.

NEURO EXAM:

MS:
Alert, oriented x 3.
Able to relate history without difficulty.
Attentive.
Language is fluent with intact comprehension.
Normal prosody.
There were no paraphasic errors.
Speech was not dysarthric.
Pt was able to name both high and low frequency objects.
Able to follow both midline and appendicular commands.
Good knowledge of current events.
No evidence of apraxia or neglect.

CN:
II:
PERRLA 3 to 2mm and brisk.
VFF to confrontation.
III, IV, VI: EOMI, no nystagmus. Normal saccades.
V: Sensation intact to LT.
VII: Facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate rise symmetric.
XI: Trapezius and SCM ___ bilaterally.
XII: Tongue protrudes midline.

Motor:
Normal bulk, tone throughout. No pronator drift bilaterally.
No adventitious movements. No asterixis.

  Delt Bic Tri WrE  FE IO      IP Quad Ham TA ___ 
L   ___   ___       5   5    ___      5   
R   ___   ___       5   5    ___      5   

Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

Reflexes:
  Bi Tri ___ Pat Ach
L  ___     3   2
R  ___     3   2
Toes mute bilaterally

Coordination:
No intention tremor, no dysdiadochokinesia noted. No dysmetria 
on FNF bilaterally.

Gait:
Good initiation. Narrow-based, normal stride and arm swing. Able 
to walk in tandem without difficulty. Romberg absent.

 
Pertinent Results:
___ 12:10PM   GLUCOSE-116* UREA N-19 CREAT-0.8 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-26 ANION GAP-16
___ 12:10PM   ALT(SGPT)-32 AST(SGOT)-30 ALK PHOS-89 TOT 
BILI-0.5
___ 12:10PM   WBC-6.2 RBC-4.59 HGB-13.2 HCT-39.8 MCV-87 
MCH-28.8 MCHC-33.2 RDW-12.9 RDWSD-40.5
___ 12:10PM   PLT COUNT-208

CT brain: No acute infarct seen. No bleed
CTA brain/neck: Mild stenosis of the right A1. 60-70% stenosis 
of
the left proximal ICA. 2mm saccular aneurysm of the right 
supraclinoid ICA. 
TTE: nl EF. No intracardiac clot.

MRI Brain
FINDINGS:  
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.  There is prominence of the ventricles and sulci 
suggestive 
involutional changes.  Periventricular and subcortical T2 and 
FLAIR 
hyperintensities are noted, which may represent small vessel 
ischemic changes. 
Limited imaging of the temporomandibular joint suggests edema 
surrounding the 
left temporomandibular joint (see 5:4). 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. No evidence of acute infarct. 
3. Atrophy and probable small vessel ischemic changes. 
4. Nonspecific edema surrounding left temporomandibular joint as 
described.  
Recommend clinical correlation. 

 
Brief Hospital Course:
___ is a ___ F with a h/o HTN, HLD, left carotid 
stenosis (65-70% per patient, she reports right side is normal) 
who presents to the ___ ED after transfer from ___ 
where she presented with complaint of paresthesias in the 
enitire left arm and hand upon waking at 2am on DOA. Symptoms 
lasted at least 3 hours unchanged, with some residual tingling 
in the left arm on arrival exam. No  motor involvement. Exam is 
normal apart from symmetrically brisk DTRs. Given risk factors, 
there was reasonable concern for TIA prompting Neuro admit and 
stroke workup.

CT brain: No acute infarct seen. No bleed
CTA brain/neck: Mild stenosis of the right A1. 60-70% stenosis 
of
the left proximal ICA. incidental 2mm saccular aneurysm of the 
right supraclinoid ICA. 
TTE: nl EF. No intracardiac clot.
MRI: negative for acute infarct.

We suspect this is a TIA of likely embolic etiology though the 
echo was normal and she had no evidence of atrial fibrillation 
on telemetry. 

1. Neuro:
-switched her from aspirin to Plavix
-continue Lipitor 10mg daily (LDL 55)
-Hba1c was 6.0%. Encouraged diet modification
-Will need repeat CTA brain in one year to check stability of 
the
2mm aneurysm of the right supraclinoid ICA.
-Encouraged continued exercising as she has been doing.  

 

 

NEURO
- MRI brain showed no acute infarct
- CTA head and neck
- Check risk factors: fasting lipid panel and HBA1c
- continue aspirin 81mg
- Allow BP to autoregulate

CV
- tele no afib
- TTE no cardioembolic source

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = see above ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Enalapril Maleate 5 mg PO DAILY 
3. spironolacton-hydrochlorothiaz 50-50 mg oral DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Enalapril Maleate 5 mg PO DAILY 
4. spironolacton-hydrochlorothiaz 50-50 mg oral DAILY 
5. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Daily Disp #*60 
Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  Ms. ___,
  
You were hospitalized due to symptoms of pins and needles in 
your left arm resulting from a transient ischemic attack, a 
condition where a blood vessel is unable to provide oxygen and 
nutrients to the brain. This can sometimes be due to a clot in 
the blood vessel. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. You received an MRI of your brain that 
did not show signs of a stroke. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, it is important to stay on a 
heart healthy and low carb diet. 

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

We wish you the best.

Your ___ Neurology Team

 
Followup Instructions:
___